US07115745B2
1-Ethyl-3-[2-(2-oxo-4-trifluoromethyl-1,2-dihydroquinolin-6-ylmethyl)phenyl]urea
A stirred THF (5 mL) solution of 6-(2-aminobenzyl)-4-trifluoromethyl-1H-quinolin-2-one (Preparation #2, 50 mg, 157 μmol) was treated dropwise with a solution of EtNCO (78 μL, 985 μmol) in anhydrous THF (1 mL) at 0° C. The reaction mixture was allowed to warm to 20° C., before being stirred for 36 h. The precipitate formed was collected, washed with THF, & dried to give the title compound (38 mg, 62%): δH ((CD3)2SO)=1.00 (t, 3H), 3.05 (q, 2H), 4.00 (s, 2H), 6.30 (t, 1H), 6.90–6.95 (m, 2H), 7.05 (d, 1H), 7.15 (t, 1H), 7.35 (d, 1H), 7.40 (d, 1H), 7.55 (s, 1H), 7.70–7.80 (m, 2H); m/z (ES+)=390.2 [M+H]+.

reactant | 6-(2-aminobenzyl)-4-trifluoromethyl-1H-quinolin-2-one | 157 μmol, 50 mg | NC1=C(CC=2C=C3C(=CC(NC3=CC2)=O)C(F)(F)F)C=CC=C1 | C17H13F3N2O
reactant | EtNCO | 985 μmol, 78 μL | C(C)N=C=O | C3H5NO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-Ethyl-3-[2-(2-oxo-4-trifluoromethyl-1,2-dihydroquinolin-6-ylmethyl)phenyl]urea | 38 mg, 62% | C(C)NC(=O)NC1=C(C=CC=C1)CC=1C=C2C(=CC(NC2=CC1)=O)C(F)(F)F | C20H18F3N3O2
